US07282605B2
2-Allyloctanoic acid
An aqueous solution of hydrogen peroxide (31% by weight; 0.5 ml, 55.0 mmol) and 0.043 g (1.0 mmol) of lithium hydroxide monohydrate were added dropwise to a solution of 0.20 g (0.50 mmol) of N-ethyloxycarbonyl-N-(2-allyloctanoyl)-(R)-1-(3-methoxyphenyl)ethylamine ((1R,2S):(1R,2R)=77:23) in a mixture of 4 ml of THF and 1 ml of water on an ice bath. The mixture was stirred on an ice bath for 3 hours and then at room temperature for 20 hours. A 2 N aqueous solution of sodium sulfite (5 ml) was added dropwise to the reaction mixture on an ice bath, and the resulting mixture was stirred at room temperature for 2 hours. Water (15 ml) was added to the reaction mixture, and the whole mixture was washed with 5 ml of ethyl acetate. To the aqueous layer was added 2 ml of a 1 N aqueous solution of hydrochloric acid (pH=2), and the resulting mixture was extracted with two 40-ml portions of ethyl acetate. The organic layer was concentrated under reduced pressure to give 0.078 g (83%, 62% ee) of the title compound as a colorless oil.

reactant | hydrogen peroxide | 55.0 mmol, 0.5 ml | OO | H2O2
reactant | lithium hydroxide monohydrate | 1.0 mmol, 0.043 g | O.[OH-].[Li+]
reactant | N-ethyloxycarbonyl-N-(2-allyloctanoyl)-(R)-1-(3-methoxyphenyl)ethylamine | 0.50 mmol, 0.20 g | C(C)OC(=O)N(C(C(CCCCCC)CC=C)=O)[C@H](C)C1=CC(=CC=C1)OC | C23H35NO4
reactant | sodium sulfite | 5 ml | S(=O)([O-])[O-].[Na+].[Na+]
solvent | THF | 4 ml | C1CCOC1 | C4H8O
solvent | water | 1 ml | O | H2O
solvent | Water | 15 ml | O | H2O
product | 2-Allyloctanoic acid | C(C=C)C(C(=O)O)CCCCCC | C11H20O2
